US06566367B2
Add 1,1′-carbonyldiimidazole (1.0 g, 6.17 mmol)to a solution of 5-trifluoromethyl-pyridine-2,3 diamine (0.90 g, 5.08 mmol) in CH2Cl2 (10 mL) and stir at room temperature for 18 hours. Heat the solution to reflux for 2 hours and filter the precipitate to obtain 6-trifluoromethyl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one.

reactant | 1,1′-carbonyldiimidazole | 6.17 mmol, 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-trifluoromethyl-pyridine-2,3 diamine | 5.08 mmol, 0.90 g | FC(C=1C=C(C(=NC1)N)N)(F)F | C6H6F3N3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-trifluoromethyl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | FC(C=1C=C2C(=NC1)NC(N2)=O)(F)F | C7H4F3N3O
